US06852731B2
N-(4-chlorobenzyl)-2-{[[2-(3-furyl)-2-hydroxyethyl](methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (100 mg, 0.25 mmol), 1-(3-furyl)-2-(methylamino)ethanol (Preparation 64) (54 mg, 0.38 mmol) and diisopropylethylamine (67 μL, 0.38 mmol) in dry DMF (5.0 mL) was stirred at room temperature for 24 hours. The solution was diluted with water (15 mL). The resulting milky suspension was stirred vigorously for 30 minutes, and then left standing overnight at room temp. The mixture was filtered, and the collected solid was washed with water and dried in vacuo, leaving a white solid. Recrystallization from acetonitrile (5 mL, dissolved with warming and then cooled to 0° C. overnight) gave the title compound (102 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.25 mmol, 100 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 1-(3-furyl)-2-(methylamino)ethanol | 0.38 mmol, 54 mg | O1C=C(C=C1)C(CNC)O | C7H11NO2
reactant | diisopropylethylamine | 0.38 mmol, 67 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[[2-(3-furyl)-2-hydroxyethyl](methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 102 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(O)C3=COC=C3)C)=O)C=C1 | C25H26ClN3O4S
